US04232166
4-Methyl-5-methylene-4-trimethylsilyloxy-1-octyne
To a solution of 25.77 g. of 4-hydroxy-4-methyl-5-methylene-1-octyne and 28.6 g. of imidazole in 50 ml. of dimethylformamide is added 22.9 g. of chlorotrimethylsilane. The mixture is stirred at room temperature for 40 minutes, poured into cold water and extracted with petroleum ether. The extract is washed with water and saturated sodium bicarbonate solution, dried over magnesium sulfate and the solvent is removed. The residue is distilled and the desired product recovered at 85°-87° C. (0.45 mm.) as a colorless liquid.

reactant | 4-hydroxy-4-methyl-5-methylene-1-octyne | OC(CC#C)(C(CCC)=C)C | C10H16O
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | water | O | H2O
product | 4-Methyl-5-methylene-4-trimethylsilyloxy-1-octyne | CC(CC#C)(C(CCC)=C)O[Si](C)(C)C | C13H24OSi
